US04550169
2-Hydrazino-1,4,5,6-tetrahydro-5-pyrimidinol, hydrobromide
A mixture of 11.5 g of 2-(ethylthio)-1,4,5,6-tetrahydro-5-pyrimidinol, hydrobromide, 2.5 ml of hydrazine hydrate and 50 ml of ethanol was stirred at reflux for 5 hours, taken to dryness in vacuo and suspended in 100 ml of 2-propanol at the boil. A 100 ml portion of methanol was added at the boil, then the solution was clarified and cooled to -10° C., giving 4.9 g of the desired intermediate, mp 163°-164° C.

reactant | 2-(ethylthio)-1,4,5,6-tetrahydro-5-pyrimidinol, hydrobromide | 11.5 g | Br.C(C)SC=1NCC(CN1)O
reactant | hydrazine hydrate | 2.5 ml | O.NN
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | methanol | CO | CH4O
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | 2-Hydrazino-1,4,5,6-tetrahydro-5-pyrimidinol, hydrobromide | 4.9 g | Br.N(N)C=1NCC(CN1)O | InChI=1S/C4H10N4O.BrH/c5-8-4-6-1-3(9)2-7-4;/h3,9H,1-2,5H2,(H2,6,7,8);1H
